US06506747B1
Synthesis of 4-(3-cyanopropoxy)-N-[4-(5-cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]benzamide
The 4-(cyanopropyloxy)benzoic acid (0.75 mmol) was coupled with 3-(3-pyridyl)-5-cyano-1-(4′-aminophenyl)-pyrazole (0.5 mmol) under standard EDC mediated conditions (Method A). The crude product was recrystallized from hot benzene/methanol, m.p. 193-194° C. 1H NMR(CDCl3): δ 2.04-2.11 (m, 2H), 2.68-2.71 (7, J=7.1 Hz, 2H), 4.14-4.17 (t, J=6 Hz, 2H), 7.11-7.13 (d, J=8.6 Hz, 2H), 7.53-7.56 (m, 1H), 7.79-7.82(d, J=8.7 Hz, 2H), 8.00-8.05 (m, 4H), 8.1 (s, 1H), 8.30-8.32 (d, J=8 Hz, 1H), 8.63-8.64(d, J=4.6 Hz, 1H), 9.15 (s, 1H), 10.4 (s, 1H).

reactant | 4-(cyanopropyloxy)benzoic acid | 0.75 mmol | C(#N)CCCOC1=CC=C(C(=O)O)C=C1 | C11H11NO3
reactant | 3-(3-pyridyl)-5-cyano-1-(4′-aminophenyl)-pyrazole | 0.5 mmol | N1=CC(=CC=C1)C1=NN(C(=C1)C#N)C1=CC=C(C=C1)N | C15H11N5
product | 4-(3-cyanopropoxy)-N-[4-(5-cyano-3-pyridin-3-yl-pyrazol-1-yl)phenyl]benzamide | C(#N)CCCOC1=CC=C(C(=O)NC2=CC=C(C=C2)N2N=C(C=C2C#N)C=2C=NC=CC2)C=C1 | C26H20N6O2
